US08809267B2
Cyclopropyl-[(tetrahydro-furan-3-yloxycarbonylamino)]-acetic acid was prepared according to the method presented in the synthesis of the intermediate 3,3-dimethyl-2-(tetrahydro-furan-3-yloxycarbonylamino)-butyric acid in Example 62. Treatment of amino-cyclopropyl-acetic acid with carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester occurred under the same conditions, adjusted for scale, to provide the desired cyclopropyl-[(tetrahydro-furan-3-yloxycarbonylamino)]-acetic acid.

reactant | 3,3-dimethyl-2-(tetrahydro-furan-3-yloxycarbonylamino)-butyric acid | CC(C(C(=O)O)NC(=O)OC1COCC1)(C)C | C11H19NO5
reactant | amino-cyclopropyl-acetic acid | NC(C(=O)O)C1CC1 | C5H9NO2
reactant | carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester | O1CC(CC1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO6
product | cyclopropyl-[(tetrahydro-furan-3-yloxycarbonylamino)]-acetic acid | C1(CC1)C(C(=O)O)NC(=O)OC1COCC1 | C10H15NO5
